US09023865B2
A mixture of 3,6-dichloro-1H-pyrazolo[4,3-c]pyridine (583.6 mg, 3.10 mmol), 1-(2-methoxyethyl)urea (550 mg, 4.66 mmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (248 mg, 0.310 mmol) and 1.78 M KOtBu in THF (5231 μl, 9.31 mmol) was degassed and then THF (0.5 mL) was added. The reaction mixture was heated to 60° C. overnight. The reaction was diluted with ethyl acetate and washed with water. The combined organics were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by MPLC (0-30% MeOH-DCM) gave 1-(3-chloro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(2-methoxyethyl)urea (214 mg, 0.794 mmol, 25.6% yield). MS ESI calc'd. for C10H13ClN5O2 [M+H]+ 270, found 270.

reactant | 3,6-dichloro-1H-pyrazolo[4,3-c]pyridine | 3.10 mmol, 583.6 mg | ClC1=NNC2=C1C=NC(=C2)Cl | C6H3Cl2N3
reactant | 1-(2-methoxyethyl)urea | 4.66 mmol, 550 mg | COCCNC(=O)N | C4H10N2O2
reactant | KOtBu | 1.78 M | CC(C)(C)[O-].[K+]
reactant | THF | 9.31 mmol, 5231 μl | C1CCOC1 | C4H8O
product | 1-(3-chloro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(2-methoxyethyl)urea | 0.794 mmol, 214 mg, 25.6% yield | ClC1=NNC2=C1C=NC(=C2)NC(=O)NCCOC | C10H12ClN5O2
